US07378417B2
To a solution of 7-chloro-5-(4-chloro-phenyl)-pyrazolo[1,5-a]pyrimidine (1.0 g, 3.0 mmol), tetrakis(triphenylphosphin)palladium (0.35 g, 0.3 mmol) in THF (5 mL) was added at 20° C. 0.4 M ethylzinc chloride/THF solution (30 mL, 12 mmol; freshly prepared by stirring a mixture of 6 mL of 2 M ethylmagnesium chloride/THF and 24 mL of 0.5 M zinc chloride/THF for 1 h at 0° C. followed by 1 h at 20° C.) and the mixture was refluxed in an atmosphere of argon for 2 h. After the slow addition at 0° C. of sat. aqueous ammonium chloride solution (8 mL), the mixture was partitioned between ethyl acetate and 10% sodium chloride solution. The organic layer was evaporated in vacuo and the residue chromatographed on silica gel using ethyl acetate/cyclo-hexane (1:4 v/v) as eluent to give ethyl 5-(4-chloro-phenyl)-7-ethyl-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid (0.53 g, 54%). This material was saponified using in an analogous manner the procedure described in example C.22, step d), to give the title compound. White solid; MS (ISN) 330.1 [(M−H)−]; mp 227° C.

reactant | 7-chloro-5-(4-chloro-phenyl)-pyrazolo[1,5-a]pyrimidine | 3.0 mmol, 1.0 g | ClC1=CC(=NC=2N1N=CC2)C2=CC=C(C=C2)Cl | C12H7Cl2N3
reactant | ethylzinc chloride THF | 0.4 M | [Cl-].C(C)[Zn+].C1CCOC1
reactant | ethylmagnesium chloride THF | 2 M, 6 mL | C(C)[Mg]Cl.C1CCOC1
reactant | ammonium chloride | 8 mL | [Cl-].[NH4+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
catalyst | zinc chloride THF | 0.5 M, 24 mL | [Cl-].[Zn+2].[Cl-].C1CCOC1
product | ethyl 5-(4-chloro-phenyl)-7-ethyl-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid | 0.53 g, 54% | C(C)C1=NN2C(N=C(C=C2CC)C2=CC=C(C=C2)Cl)=C1C(=O)O | C17H16ClN3O2
